US07968587B2
2-Chloromethyl-3-chloropyrazine
Prepare the title compound using the chlorination procedure as essentially described by Jeromin, G. E.; et al., DE3519364, 1986, and Russell, M. G. N.; et al. J. Med. Chem. 2005, 48, 1367-1383. Dissolve 2-methyl-3-chloropyrazine (24.3 g, 189 mmol) in CHCl3 (100 mL). Add benzamide (100 mg, 0.8 mmol) and heat to reflux. At reflux, add solid trichloroisocyanuric acid (17.6 g, 75.6 mmol) and continue to reflux for 96 h. Cool and filter through 200 g silica gel, eluting with methylene chloride. Purify by silica gel chromatography using a gradient of 35% chloroform/hexane to 60% chloroform/hexane over one hour. Obtain the title compound as a colorless oil, 5.39 g pure title compound and 9.4 g that is >70% desired product. 1H-NMR (CDCl3) δ 8.50 (d, 1H, J=2.2 Hz), 8.37 (d, 1H, J=2.6 Hz), 4.80 (s, 2H), 2.50 (s, 3H); GC/MS M=162+164.

reactant | 2-methyl-3-chloropyrazine | 189 mmol, 24.3 g | CC1=NC=CN=C1Cl | C5H5ClN2
reactant | trichloroisocyanuric acid | 75.6 mmol, 17.6 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | benzamide | 0.8 mmol, 100 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 2-Chloromethyl-3-chloropyrazine | 5.39 g | ClCC1=NC=CN=C1Cl | C5H4Cl2N2
